US05489593
1-[5-Benzyloxyindolyl-2-carbonyl]-4-[3-(ethylamino)-2-pyridinyl]piperazine (III)
Following the general procedure of EXAMPLE 16 and making non-critical variations but starting with 5-benzyloxyindole-2-carboxylic acid (1.0 g), 1-(3-ethylamino-2-pyridinyl)piperazine (International Publication WO 87/01706, 0.81 g), 1,1'-carbonyldiimidazole (0.61 g) and THF (7 ml), the title compound is obtained, mp 192°-193°.

reactant | 5-benzyloxyindole-2-carboxylic acid | 1.0 g | C(C1=CC=CC=C1)OC=1C=C2C=C(NC2=CC1)C(=O)O | C16H13NO3
reactant | 1-(3-ethylamino-2-pyridinyl)piperazine | 0.81 g | C(C)NC=1C(=NC=CC1)N1CCNCC1 | C11H18N4
reactant | 1,1'-carbonyldiimidazole | 0.61 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | 1-[5-Benzyloxyindolyl-2-carbonyl]-4-[3-(ethylamino)-2-pyridinyl]piperazine | CCNC1=C(N=CC=C1)N2CCN(CC2)C(=O)C3=CC4=C(N3)C=CC(=C4)OCC5=CC=CC=C5 | C27H29N5O2
